US05948935
To a 12 L flask equipped with a mechanical stirrer, thermometer and condenser containing a nitrogen inlet was added Raney nickel (1 kg, 50% slurry in water, as sold by the Aldrich Chemical Co.). This material was washed with distilled water and decanted (3×0.8 L). Formic acid (88% 7 L) was added (stirring started) followed by a solution of methyl 1-cyanocyclopentanecarboxylate (696 g, 4.54 mol) in formic acid (88%, 1 L). Gas evolved and the exothermic mixture (temperature increased to 45° C.) was stirred at 75° C. for 5 h. After the reaction mixture cooled to room temperature and the catalyst settled, the majority of the solvent was decanted off through a fiberglass filter. The residue was mixed with water (6 L) and filtered. The collected solid was washed with water (1 L) and CH2Cl2 (1 L) and all the filtrates were combined. The aqueous phase was separated and extracted with CH2Cl2 (6 L), and the combined organic phases were washed with saturated aqueous NaHCO3 and brine. Drying (MgSO4), filtering, and concentrating afforded material that was immediately distilled (Vigreux® column, fraction boiling at 93° C., 16 mm Hg collected) to provide methyl 1-formylcyclopentanecarboxylate as a clear colorless liquid (491 g, 69% yield). 1H-NMR (400 MHz, CDCl3) δ 9.65 (s, 1 H), 3.76 (s, 3 H), 2.19-2.04 (m, 4 H), 1.78-1.58 (m, 4 H); 13C NMR (100.6 MHz, CDCl3) δ 197.0, 172.6, 64.3, 51.9, 31.0, 25.3; EI-MS exact mass calcd for: C8H13O3 ; 157.0865; found: 157.0864. This compound has been reported previously by C. R. Davis et al., J. Org. Chem. 1993, 58, 6843.

reactant | methyl 1-cyanocyclopentanecarboxylate | 4.54 mol, 696 g | C(#N)C1(CCCC1)C(=O)OC | C8H11NO2
reactant | water | O | H2O
catalyst | Raney nickel | [Ni] | Ni
solvent | formic acid | 1 L | C(=O)O | CH2O2
product | methyl 1-formylcyclopentanecarboxylate | 491 g, 69% yield | C(=O)C1(CCCC1)C(=O)OC | C8H12O3
